US09302996B2
In ethanol (10 mL) was dissolved 2-bromo-5-[5-(trifluoromethyl)-1H-imidazol-2-yl]-pyridine (500 mg), 2N aqueous sodium hydroxide solution was added to the solution, and the mixture was stirred at 70° C. overnight. The reaction mixture was concentrated under reduced pressure, and 1N aqueous citric acid solution was added thereto. The precipitated solid substance was collected by filtration, washed with water, and then, with ether, and dried to obtain 2-(6-bromopyridin-3-yl)-1H-imidazol-5-carboxylic acid (722 mg).

reactant | 2-bromo-5-[5-(trifluoromethyl)-1H-imidazol-2-yl]-pyridine | 500 mg | BrC1=NC=C(C=C1)C=1NC(=CN1)C(F)(F)F | C9H5BrF3N3
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | ethanol | 10 mL | C(C)O | C2H6O
product | 2-(6-bromopyridin-3-yl)-1H-imidazol-5-carboxylic acid | 722 mg | BrC1=CC=C(C=N1)C=1NC(=CN1)C(=O)O | C9H6BrN3O2
